US04190666
A mixture of 4,5-bis(4-t-butoxyphenyl)-2-(1,1,2,2-tetrafluoroethylsulfonyl)imidazole and trifluoroacetic acid is stirred overnight at room temperature. The reaction mixture is poured into water, and work-up affords as product 4,5-bis(4-hydroxyphenyl)-2-(1,1,2,2-tetrafluoroethylsulfonyl)imidazole.

reactant | 4,5-bis(4-t-butoxyphenyl)-2-(1,1,2,2-tetrafluoroethylsulfonyl)imidazole | C(C)(C)(C)OC1=CC=C(C=C1)C=1N=C(NC1C1=CC=C(C=C1)OC(C)(C)C)S(=O)(=O)C(C(F)F)(F)F | C25H28F4N2O4S
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | water | O | H2O
product | 4,5-bis(4-hydroxyphenyl)-2-(1,1,2,2-tetrafluoroethylsulfonyl)imidazole | OC1=CC=C(C=C1)C=1N=C(NC1C1=CC=C(C=C1)O)S(=O)(=O)C(C(F)F)(F)F | C17H12F4N2O4S
